US08466186B2
(d) N-{4-Chloro-3-[4-cyano-5-(3-trifluoromethyl-piperidin-1-yl)-1H-benzimidazol-2-ylamino]-benzyl}-1-trifluoromethyl-cyclopropanamide
The title compound was prepared in analogy to Example 71 using 2,3-diamino-6-(3-trifluoromethyl-piperidin-1-yl)benzonitrile (115 mg, 0.40 mmol), N-(4-chloro-3-isothiocyanatobenzyl)-1-(trifluoromethyl)cyclopropane carboxamide (135 mg; 0.40 mmol), EDC (77 mg, 0.40 mmol) and DMF (3 mL).

reactant | 2,3-diamino-6-(3-trifluoromethyl-piperidin-1-yl)benzonitrile | 0.40 mmol, 115 mg | NC1=C(C#N)C(=CC=C1N)N1CC(CCC1)C(F)(F)F | C13H15F3N4
reactant | N-(4-chloro-3-isothiocyanatobenzyl)-1-(trifluoromethyl)cyclopropane carboxamide | 0.40 mmol, 135 mg | ClC1=C(C=C(CNC(=O)C2(CC2)C(F)(F)F)C=C1)N=C=S | C13H10ClF3N2OS
reactant | EDC | 0.40 mmol, 77 mg
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | N-{4-Chloro-3-[4-cyano-5-(3-trifluoromethyl-piperidin-1-yl)-1H-benzimidazol-2-ylamino]-benzyl}-1-trifluoromethyl-cyclopropanamide | ClC1=C(C=C(CNC(=O)C2(CC2)C(F)(F)F)C=C1)NC1=NC2=C(N1)C=CC(=C2C#N)N2CC(CCC2)C(F)(F)F | C26H23ClF6N6O
